US04472379
2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl azide (1.56 g, 4.18 mmol.) was dissolved in ethanol (50 ml). The resulting solution was subjected to catalytic hydrogenation in the presence of Raney nickel T-4 catalyst (1.5 ml) under the initial hydrogen pressure of 50 psi for 24 hours to reduce the azide group into amino group. From the reaction solution was taken out a portion thereof which was subjected to TLC on silica gel developed with a developer system of benzene-acetone (9:1 by volume). According to this TLC analysis, the completion of the reaction was confirmed by detecting whether the reduction product gave a ninhydrin-positive single spot of Rf 0.18. After this, the reaction solution was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure, affording the O-acetylglucosylamino compound as the white crystalline residue. This residue was taken up into dioxane (10 ml), and to the resultant solution were added N-carbobenzoxy-glycine N-hydroxy-succinimide active ester (1.27 g, 1.05 moles per mole of the starting compound) and triethylamine (0.58 ml, 1 mole per mole of the starting compound). The mixture was held at room temperature for 6 hours to effect the reaction for formation of the condensation product.

reactant | 2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl azide | 4.18 mmol, 1.56 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=[N+]=[N-] | C14H19N3O9
reactant | hydrogen | [H][H] | H2
reactant | benzene acetone | C1=CC=CC=C1.CC(=O)C
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1.5 ml | [Ni] | Ni
product | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
